US05494928
A suspension of 0.12 g of sodium hydride dispersion in 15 ml of tetrahydrofuran was treated with 0.5 g of 5,6-difluoroindole at 0° and stirred at this temperature for 1 hour. After the addition of 0.46 ml of (R)-methyloxirane the reaction mixture was stirred at room temperature for 60 hours and subsequently treated with water. The mixture was diluted with ether, washed twice with water and with saturated sodium chloride solution and the organic phase was dried over sodium sulfate. After removal of the solvent the residue was chromatographed over 35 g of silica gel with toluene-ethyl acetate (19:1). 0.46 g (66.5%) of (R)-1-(5,6-difluoro-indol-1-yl)-propan-2-ol was obtained as yellowish crystals with m.p. 114°-116°.

reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | 5,6-difluoroindole | 0.5 g | FC=1C=C2C=CNC2=CC1F | C8H5F2N
reactant | (R)-methyloxirane | 0.46 ml | C[C@H]1OC1 | C3H6O
reactant | water | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (R)-1-(5,6-difluoro-indol-1-yl)-propan-2-ol | 0.46 g, 66.5% | FC=1C=C2C=CN(C2=CC1F)C[C@@H](C)O | C11H11F2NO
